US05696117
4-(3-Chlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-6-phenyl-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-6-phenyl-2H-1,4-benzoxazine by Methods F and G, alkylating with 3-chlorobenzyl bromide, to afford a white crystalline solid in 27% overall yield, mp 119°-121° C.; IR (KBr) 3517, 1659, 1487, 1435, 1387, 1282, 1260, 1060, 760 cm-1 ; 1H NMR (CDCl3) δ2.22-2.38 (m, 3H), 3.95 (v br s, 2H), 4.90 (dd, J=7.6, 5.5 Hz, 1H), 5.18 (ABq, JAB =17.1 Hz, 2H), 7.04 (d, J=1.9 Hz, 1H), 7.08 (d, J=8.3 Hz, 1H), 7.15-7.42 (m, 10H); MH+ at m/z=394; Anal. Calc'd for C23H20 ClNO3 : C, 70.14; H, 5.12; N, 3.56. Found: C, 70.10; H, 5.11; N, 3.51.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-6-phenyl-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=C(C=C2)C2=CC=CC=C2 | C22H29NO3Si
reactant | 3-chlorobenzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | KBr | [K+].[Br-]
product | 4-(3-Chlorobenzyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-6-phenyl-2H-1,4-benzoxazine | ClC=1C=C(CN2C(C(OC3=C2C=C(C=C3)C3=CC=CC=C3)CCO)=O)C=CC1 | C23H20ClNO3
